US06589984B1
After adding thionyl chloride (3.80 ml) to a solution of 2-benzofurancarboxylic acid (2.00 g) in MeOH (60 ml) at −40° C., the mixture was stirred for 19 hours while the temperature gradually increased to room temperature. The reaction solution was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (n-hexane/AcOEt=6/1) to obtain methyl 2-benzofurancarboxylate.

reactant | thionyl chloride | 3.80 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-benzofurancarboxylic acid | 2.00 g | O1C(=CC2=C1C=CC=C2)C(=O)O | C9H6O3
reactant | MeOH | 60 ml | CO | CH4O
product | methyl 2-benzofurancarboxylate | O1C(=CC2=C1C=CC=C2)C(=O)OC | C10H8O3
